US07834000B2
2-(4-Oxo-2-phenyl-3-((pyridin-4-yl)methyl)thiazolidin-5-yl)acetic acid
A solution of benzaldehyde (0.75 mmol, 79.6 mg) and 2-(pyridin-4-yl)ethanamine (97.3 mg, 0.9 mmol) in DMF (0.5 ml) with 4 Å molecular sieves was heated at 80° C. for 2 hours. A solution of mercaptosuccinic acid (1.13 mmol, 168 mg) in DMF (0.2 ml) was added and the reaction was heated at 80° C. for an additional 16 hours. The reaction mixture was diluted with water and extracted with EtOAc. The organic layer was washed with 1N HCl, water and evaporated to dryness to give the desired product which was used without further purification. LC/MS (10% to 99%): M/Z (M+H)+ (obs)=329; tR=1.95.

reactant | benzaldehyde | 0.75 mmol, 79.6 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-(pyridin-4-yl)ethanamine | 0.9 mmol, 97.3 mg | N1=CC=C(C=C1)CCN | C7H10N2
reactant | mercaptosuccinic acid | 1.13 mmol, 168 mg | SC(C(=O)O)CC(=O)O | C4H6O4S
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
reactant | DMF | 0.2 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(4-Oxo-2-phenyl-3-((pyridin-4-yl)methyl)thiazolidin-5-yl)acetic acid | O=C1N(C(SC1CC(=O)O)C1=CC=CC=C1)CC1=CC=NC=C1 | C17H16N2O3S
